US05807857
a) 1,4-Bis-benzylpyridinium bromide
A solution of 4-benzylpyridine (5.0 g, 29.5 mmol) in anhydrous acetone (25 ml) was treated with benzyl bromide (3.6 ml, 30 mmol) and stirred at room temperature for 18 hours. The precipitate was collected, washed with diethyl ether then dried to give the quaternary salt as a colourless solid (9.52 g, 95%). mp 214°-216° C. δ (360 MHz, D2O) 4.29 (2H, s, CH2), 5.74 (2H, s, CH2), 7.30-7.52 (10H, m, Ar-H), 7.84 (2H, d, J=7Hz, Py-H), 8.68 (2H, d, Py-H).

reactant | 4-benzylpyridine | 29.5 mmol, 5.0 g | C(C1=CC=CC=C1)C1=CC=NC=C1 | C12H11N
reactant | benzyl bromide | 30 mmol, 3.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1,4-Bis-benzylpyridinium bromide | 9.52 g, 95% | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)CC1=CC=CC=C1 | InChI=1S/C19H18N.BrH/c1-3-7-17(8-4-1)15-18-11-13-20(14-12-18)16-19-9-5-2-6-10-19;/h1-14H,15-16H2;1H/q+1;/p-1
